US05994353
6-[N-(5-Bromo-2-(3,3,3-trifluoro-2-hydroxypropoxy)benzyl)-N-ethylamino]-3-cyanopyridazine
The title compound was prepared by reacting 6-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]-3-cyanopyridazine with 1,1,1-trifluoro-3-bromo-propan-2-ol using a method similar to that of reference example 4.

reactant | 6-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]-3-cyanopyridazine | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C#N)C1)O | C14H13BrN4O
reactant | 1,1,1-trifluoro-3-bromo-propan-2-ol | FC(C(CBr)O)(F)F | C3H4BrF3O
product | 6-[N-(5-Bromo-2-(3,3,3-trifluoro-2-hydroxypropoxy)benzyl)-N-ethylamino]-3-cyanopyridazine | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C#N)C1)OCC(C(F)(F)F)O | C17H16BrF3N4O2
